US08278324B2
Methyl 3-chloro-4-[(1-methylethyl)oxy]benzoate
Methyl 3-chloro-4-hydroxybenzoate (50 g, 0.27 mole), K2CO3 (74 g, 0.54 mole) and iodopropane (29.5 ml, 0.23 mole) were stirred at room temperature in DMF (100 mL). After 18 hours, the solvent was removed by evaporation under vacuum and the residue was chromatographed over a column of silica 60 in EtOAc/hexane (1:1) to give the title compound as an oil (55 g, 90%). 1H NMR (400 MHz, CDCl3) δ 8.05 (1H, d), 7.89 (1H, dd), 6.94 (1H, d), 4.60-4.72 (1H, m), 3.89 (3H, s), 1.41 (6H, d); m/z (API-ES) 229 [M+H]+.

reactant | Methyl 3-chloro-4-hydroxybenzoate | 0.27 mole, 50 g | ClC=1C=C(C(=O)OC)C=CC1O | C8H7ClO3
reactant | K2CO3 | 0.54 mole, 74 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodopropane | 0.23 mole, 29.5 ml | ICCC | C3H7I
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | Methyl 3-chloro-4-[(1-methylethyl)oxy]benzoate | 55 g, 90% | ClC=1C=C(C(=O)OC)C=CC1OC(C)C | C11H13ClO3
